US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-carboxymethyl-galactopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetyl-mannopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 9.62 g (100 mmol) of sodium-t-butoxide in 350 ml of dimethyl sulfoxide is cooled to 0° C. At 0° C., 36.92 g (200 mmol) of chloroacetic acid benzyl ester is added in drops over 20 minutes while being stirred vigorously. It is stirred for one hour at 10° C. 250 ml of methyl-tert-butyl ether is added, the organic phase is separated, and it is filtered. The solvent is distilled off in a vacuum. The residue is taken up in 500 ml of ethanol. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Catalyst is filtered out, it is rewashed with a little ethanol and evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-acetyl-mannopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | sodium-t-butoxide | 100 mmol, 9.62 g | CC(C)([O-])C.[Na+]
reactant | chloroacetic acid benzyl ester | 200 mmol, 36.92 g | C(C1=CC=CC=C1)OC(CCl)=O | C9H9ClO2
reactant | methyl-tert-butyl ether | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
product | 2,3,4,6-Tetra-O-acetyl-1-O-carboxymethyl-galactopyranose | C(C)(=O)O[C@H]1C(OCC(=O)O)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H22O12
